US08067445B2
Synthesis of Cyclopropanecarboxylic acid (5′-carbamoylmethyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-ethyl-amide (Compound 2-8)
To a solution of cyclopropanecarboxylic acid (5′-cyanomethyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-ethyl-amide (0.064 g, 0.15 mmol) and potassium carbonate (0.064 g, 0.46 mmol) in DMSO (1 mL) at 0° C. was added hydrogen peroxide (30%; 0.44 mL), and the reaction was warmed to room temperature and stirred for 3 hours. The mixture was partitioned between EtOAc and aqueous Na2S2O4, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound. M+H is 435.

reactant | cyclopropanecarboxylic acid (5′-cyanomethyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-ethyl-amide | 0.15 mmol, 0.064 g | C(#N)CC=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)C1CC1)CC)OC | C23H23F3N2O2
reactant | potassium carbonate | 0.46 mmol, 0.064 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 0.44 mL | OO | H2O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | Cyclopropanecarboxylic acid (5′-carbamoylmethyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-ethyl-amide | C(N)(=O)CC=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)C1CC1)CC)OC | C23H25F3N2O3
